US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-1-methyl-1H-pyrazole-5-carboxamide
In the same manner as in Example 7-4 and using 1-methyl-1H-pyrazole-5-carboxylic acid (73.6 mg, 0.584 mmol), oxalyl chloride (102 μL, 1.17 mmol), tetrahydrofuran (5 mL), N,N-dimethylformamide (1 drop) and N-[6-(3-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (60.0 mg, 0.195 mmol) as starting materials, the title compound (41.0 mg, 50%) was obtained as a white solid.

reactant | 1-methyl-1H-pyrazole-5-carboxylic acid | 0.584 mmol, 73.6 mg | CN1N=CC=C1C(=O)O | C5H6N2O2
reactant | oxalyl chloride | 1.17 mmol, 102 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.195 mmol, 60.0 mg | NC=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C17H16N4O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]-1-methyl-1H-pyrazole-5-carboxamide | 41.0 mg, 50% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CC=NN2C)C1 | C22H20N6O3
